US05037837
In an atmosphere of argon 4.03 g of 3-(4-methoxymethoxy-3-methoxyphenyl)propionic acid and 1.79 g of 2-mercaptothiazoline were dissolved in 80 ml of dichloromethane followed by the addition of 3.10 g of dicyclohexylcarbodiimide and 0.21 g of 4-dimethylaminopyridine. The mixture was stirred at room temperature for 15 hours, and the reaction mixture was filtered. The filtrate was washed with a 1N aqueous sodium hydroxide, water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue subjected to column chromatography on silica gel. From the fraction eluted with methylene chloride was obtained 5.07 g of N-[3-(4-methoxymethoxy-3-methoxyphenyl)propanoyl]-thiazolidine-2thione.

reactant | 2-mercaptothiazoline | 1.79 g | SC=1SCCN1 | C3H5NS2
reactant | dicyclohexylcarbodiimide | 3.10 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-(4-methoxymethoxy-3-methoxyphenyl)propionic acid | COCOC1=C(C=C(C=C1)CCC(=O)O)OC | C12H16O5
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.21 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(4-methoxymethoxy-3-methoxyphenyl)propanoyl]-thiazolidine-2thione | 5.07 g | COCOC1=C(C=C(C=C1)CCC(=O)N1C(SCC1)=S)OC | C15H19NO4S2
